US06391887B1
4-Amino-7-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 7-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (170 mg, 0.77 mmol) in 7N methanolic ammonia solution (20 ml) is reacted to form 160 mg (99%) of product.

reactant | 7-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.77 mmol, 170 mg | FC=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C12H12FNS
reactant | ammonia | 7N, 20 ml | N | H3N
product | 4-Amino-7-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 160 mg, 99% | NC1=NC=2C=C(C=CC2C2C1CCC2)F | C12H13FN2
